US04584303
A stirred solution of 76.1 g of methyl 1-benzyl-4-anilino-4-piperidine carboxylate in 1200 ml of toluene is maintained at ambient temperature while 130 ml of a 70% solution of sodium dihydrobis(2-methoxyethoxy)aluminate in benzene is added dropwise. Stirring is continued for one hour after the addition. Two hundred grams of a saturated solution of sodium sulfate is added. The aqueous portion is removed and the organic portion is dried over sodium sulfate and flash evaporated to give 72.5 g of 1-benzyl-4-anilino-4-piperidinemethanol, as an oil.

reactant | methyl 1-benzyl-4-anilino-4-piperidine carboxylate | 76.1 g | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)OC)NC1=CC=CC=C1 | C20H24N2O2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 1200 ml | C1(=CC=CC=C1)C | C7H8
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-benzyl-4-anilino-4-piperidinemethanol | 72.5 g | C(C1=CC=CC=C1)N1CCC(CC1)(CO)NC1=CC=CC=C1 | C19H24N2O
